US04131674
Pyridine (10 cc.), triethylamine (5 cc.) and dimethylcarbamoyl chloride (1.61 g.) are added successively to a suspension of 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-isoindolin-1-one (3.11 g.) in methylene chloride (50 cc.). The reaction mixture is stirred for 16 hours at a temperature of about 20° C. and water (50 cc.) and methylene chloride (25 cc.) are then added. The aqueous layer is decanted off and washed with methylene chloride (2 × 25 cc.). The organic layers are combined, washed with water (2 × 25 cc.), dried over sodium sulphate and evaporated to dryness under reduced pressure. Recrystallisation of the residue obtained from acetonitrile (45 cc.) gives 2-(7-chloro-1,8-naphthyridin-2-yl)-3-dimethylaminocarbonyloxy-isoindolin-1-one (2.8 g.) melting at 218° C.

reactant | Pyridine | 10 cc | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 5 cc | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 1.61 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-isoindolin-1-one | 3.11 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1O)=O | C16H10ClN3O2
solvent | methylene chloride | 50 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 cc | C(Cl)Cl | CH2Cl2
solvent | water | 50 cc | O | H2O
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-dimethylaminocarbonyloxy-isoindolin-1-one | 2.8 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OC(=O)N(C)C)=O | C19H15ClN4O3
